US09212168B2
(R)-4-[5-(5-Chloro-4′-{2-[(2S,4S)-4-cyano-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester
A solution of [(S)-1-((2S,4S)-4-cyano-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (0.10 g, 0.19 mmol), (R)-4-[5-(4-bromo-2-chloro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (113.9 mg, 0.19 mmol) and potassium carbonate (119.3 mg, 0.86 mmol) in toluene (0.46 mL) and water (0.24 mL, 13.56 mmol) was degassed with nitrogen for 20 min and then Pd(dppf)Cl2CH2Cl2 (6.27 mg, 0.0076 mmol) was added and the reaction was degassed with nitrogen for 15 min. The reaction mixture was heated at 100° C. for 12 h, concentrated under vacuum, and purified by reverse phase HPLC. The pure fractions were combined and concentrated under vacuum to afford the di-TFA salt of the title compound (13 mg, 6% yield). (m/z): [M+H]+ calcd for C44H49ClF3N9O7 908.34. found 908.7.

reactant | [(S)-1-((2S,4S)-4-cyano-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 0.19 mmol, 0.10 g | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)C#N)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H36BN5O5
reactant | (R)-4-[5-(4-bromo-2-chloro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.19 mmol, 113.9 mg | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=C(C=C(C(=C1)OC(F)(F)F)Br)Cl)=O)C | C23H25BrClF3N4O4
reactant | potassium carbonate | 0.86 mmol, 119.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 13.56 mmol, 0.24 mL | O | H2O
solvent | toluene | 0.46 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-4-[5-(5-Chloro-4′-{2-[(2S,4S)-4-cyano-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 13 mg, 6% yield | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=CC(=C(C=C1Cl)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)C#N)C([C@H](C(C)C)NC(=O)OC)=O)OC(F)(F)F)=O)C | C44H49ClF3N9O7
